* OrCAD Model Editor - Version 9.1

*******************VERSION HISTORY*************************************
*version 1.0 - 	09/04/09: 	Created by Duane Pionilla from specifications of Sho Sai.
*version 1.1 -	10/14/09:	Modified by Duane Pionilla. Removed all connection to 0
*					and connected to GND. Created GND pin to comp1 and comp2
*					subcircuit. Removed connection to "Global 0".
*    		- 	10/14/09:	Add Revision History
*		-	02/01/10:	Modified IDD current characteristics using equations and less devices.
*					Previous characterization causes a small current even 0volts supply.
*					Added another module (OR gate)
*$

*******************comp1 block*****************************************
*                      VDD
*                   out |
*                in2 |  |
*             in1 |  |  |
*              |  |  |  |
.subckt comp1 11 10 18 17 GND
.model DZ D(Is=0.05n rs=0.001 bv=10 Ibv=1)
E1 12 GND 11 10 10k
R1 12 13 100k
C1 13 GND 100p
D1 GND 13 DZ
M4 18 13 17 17 PMOS2 l=.6u w=8000u
Rpd 18 GND 30k
***vto is set for the computation of VOLP=0.7V
***gate voltage swings from -0.5V to 10V
.MODEL PMOS2 PMOS (level=1 vto=-1.476)
.ends comp1
*$
*******************comp2 block*****************************************
*                      VDD
*                   out |
*                in2 |  |
*             in1 |  |  |
*              |  |  |  |
.subckt comp2 11 10 18 17 GND
* in1 in2 out VDD
.model DZ D(Is=0.05n rs=0.001 bv=11 Ibv=1)
E1 12 GND 11 10 100k
R1 12 13 100k
C1 13 GND 100p
D1 GND 13 DZ
M6 18 13 17 17 PMOS20 l=1u w=10000u
M7 18 13 GND GND NMOS20 l=1u w=10000u
.MODEL PMOS20 PMOS (level=1 vto=0)
.MODEL NMOS20 NMOS (level=1 vto=0)
.ends comp2
*$
*******************orgate block*****************************************
*                      VDD
*                   out |
*                in2 |  |
*             in1 |  |  |
*              |  |  |  |
.subckt orgate 1  2  3  4 GND
* in1 in2 out VDD
.model SWVCR1 VSWITCH roff=1000meg ron=0.001 von=0.5
.model SWVCR2 VSWITCH roff=0.001 ron=1000meg von=0.5
S1 4 3 1 GND SWVCR1
S2 4 3 2 GND SWVCR1
S3 3 5 1 GND SWVCR2
S4 5 GND 2 GND SWVCR2
.ends orgate
*$
.subckt BD52E42G VOUT VDD GND NC CT
****************VDET, Hysteresis and Release Block*********************
X1 11 10 18 29 GND comp2
Vref 10 GND 1
R1b 29 11 20meg
R100 11 16 5.86510meg
R101 16 GND 0.38490meg
M3 16 18 GND GND NMOS2 l=1u w=1000u
.MODEL NMOS2 NMOS (level=1 vto=.1)
.MODEL PMOS1 PMOS (level=1)
.MODEL NMOS1 NMOS (level=1)
*****************TPLH delay block***************************************
M6 15 18 29 29 PMOS22 l=1u w=10000u
M7 14 18 GND GND NMOS22 l=1u w=10000u
.MODEL PMOS22 PMOS (level=1 vto=0)
.MODEL NMOS22 NMOS (level=1 vto=0)
Rct 15 14 8.997923meg
Rct3 14 CT 2.076667k
Cct CT GND 43.9233864p
****VCTH circuit****
Rdet1 29 19 11meg
Rdet2 19 GND 9meg
*****************TPHL delay block***************************************
X52 CT 19 20 29 GND comp1
T1 20 GND 222 GND Z0=1meg TD=32.0u
R500 222 GND 1meg
E500 333 GND poly(2) 20 GND 222 GND 0 0 0 0 2
*****************driver stage block************************************
Mdrv 29 333 334 GND NMOS10 l=1u w=8000u
Rdrv 334 GND 100k
.MODEL NMOS10 NMOS (level=1 vto=0)
******************Open drain NMOS output block*************************
Mout VOUT 334 GND GND NMOS3 l=10u w=3006.4u
.MODEL NMOS3 NMOS (level=1 vto=.5)
**circuit current
M1cc 65 65 VDD VDD PMOS10 l=10u w=100u
R2cc VDD 65 5meg
D1ccA GND 67 DZ2A
D1ccB GND 68 DZ2B
R1cc 65 GND 14.6872266666667meg
.model DZ2A D(Is=0.87702779384946u)
.model DZ2B D(Is=0.604904140861543u)
.MODEL PMOS10 PMOS (level=1 vto=-0.9)
.model SWVCR1 VSWITCH roff=10000meg ron=0.001
.model SWVCR2 VSWITCH roff=0.001 ron=10000meg
S1 65 67 401 GND SWVCR1
S2 65 68 401 GND SWVCR2
E1 400 GND poly(1) 29 GND 0.951 -1
X53 334 400 401 29 GND orgate
Evdd 29 GND VDD GND 1
.ends BD52E42G 
*$
